US07846929B2
To a mixture of N-(2-bromoethyl)phthalimide (500 mg) in DMSO (8 mL) was added sodium thiomethoxide (152 mg) and the reaction stirred at room temperature for 16 h. Then with water (2 mL) was added and the mixture stirred at room temperature for 10 min. The reaction was diluted with water (20 mL) and extracted into ethyl acetate (2×20 mL). The combined organics were washed with aqueous brine solution (2×20 mL), dried (MgSO4) and reduced in vacuo to give 2-(2-methylsulfanyl-ethyl)-isoindole-1,3-dione as a white solid.

reactant | N-(2-bromoethyl)phthalimide | 500 mg | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | sodium thiomethoxide | 152 mg | C[S-].[Na+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 2-(2-methylsulfanyl-ethyl)-isoindole-1,3-dione | CSCCN1C(C2=CC=CC=C2C1=O)=O | C11H11NO2S
